US05158968
4-Methyl-5-phenyl-2,4-dihydro-3H-1,2,4-triazole-3-thione
A stirred mixture of 1-benzoyl-4-methylthiosemicarbazide (20.9 g, 1.00×10-1 mole) and 1 molar aqueous NaHCO3 (1000 ml, 1 mole) was heated to reflux. After refluxing overnight the reaction was cooled in an ice bath. With stirring the solution was carefully acidified by the dropwise addition of conc. HCl (92 ml, 1.1 mole). A colorless precipitate formed and this was subsequently collected by filtration.

reactant | 1-benzoyl-4-methylthiosemicarbazide | 1.00×10-1 mole, 20.9 g | C(C1=CC=CC=C1)(=O)NNC(=S)NC | C9H11N3OS
reactant | NaHCO3 | 1 mole, 1 molar, 1000 ml | C(=O)(O)[O-].[Na+]
reactant | HCl | 1.1 mole, 92 ml | Cl | ClH
product | 4-Methyl-5-phenyl-2,4-dihydro-3H-1,2,4-triazole-3-thione | CN1C(NN=C1C1=CC=CC=C1)=S | C9H9N3S
